US07820616B1
2,5-dipentyl-3,4-dihydro-2H-pyran-2-carbaldehyde (165 g, synthesized as above) was loaded in a 3-liter round bottom flask and dissolved in 500 mL of isopropanol. Sodium Borohydride (6.1 g, commercially available from Sigma-Aldrich Inc) was added and the reaction exothermed up to about 58° C. The reaction was then stirred for about 2 hours. The reaction mixture was periodically sampled and analyzed by GC to monitor the reaction progress. After GC indicated the consumption of about all the starting material, sulfuric acid (500 mL, 10% solution in water) was then added and the temperature was increased to 35° C. The reaction mixture was further stirred for about 30 minutes and then cooled. The organic layer was separated and washed with 500 mL 10% aqueous sodium hydroxide solution. The solvents were removed to yield the crude product, which was purified by distillation to provide 1,4-dipentyl-6,8-dioxa-bicyclo[3.2.1]octane (128 g).

reactant | 2,5-dipentyl-3,4-dihydro-2H-pyran-2-carbaldehyde | 165 g | C(CCCC)C1(OC=C(CC1)CCCCC)C=O | C16H28O2
reactant | Sodium Borohydride | [BH4-].[Na+]
solvent | isopropanol | 500 mL | C(C)(C)O | C3H8O
product | 1,4-dipentyl-6,8-dioxa-bicyclo[3.2.1]octane | 128 g | C(CCCC)C12CCC(C(OC1)O2)CCCCC | C16H30O2
